*****************************************************************
* NXP BUK9Y4R4-40E
*
* Polarity N-Channel
* Ratings 40V/4.400000E-003OHMS/100A
*
* Date Created Tue Feb 05 08:40:47 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y4R4-40E DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00242495071174123 TC=0.00432232855829702,1.78057195662435E-05
RBD 9 4 0.000893488574481735 TC=0.00432232855829702,1.78057195662435E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 2.5307171428831e-09
RG 1 2 2.15979376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	4681.28
+ -10	4677.41
+ -8	4671.19
+ -6	4660.01
+ -5	4649.61
+ -4	4630.48
+ -3	4573.69
+ -2	4098.28
+ -1	2401.31
+ -0.5	1950.51
+ -0.2	1770.46
+ -0.1	1774.85
+ 0	1135.96412
+ 0.1	553.58132
+ 0.2	553.06944
+ 0.5	484.86196
+ 1	424.32008
+ 2	355.74944
+ 3	317.09696
+ 4	289.6654
+ 5	268.74368
+ 6	253.71916
+ 8	235.13304
+ 10	224.30316
+ 12	216.7912
+ 15	208.35804
+ 16	205.88936
+ 20	198.0414
+ 25	190.41588
+ 30	184.46664
+ 35	178.5174



.MODEL MINT NMOS(Vto=2.04577470570179 Kp=3.273521e+002 Nfs=310000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)


.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=11e-13
+ N=1 M=0.58 VJ=0.65 Fc=0.5 Cjo=1.85025216e-09 Tt=1.3472e-08)

.ENDS

